US07608631B2
1.1 g of 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-benzonitrile, 247 mg of hydroxylamine hydrochloride and 430 mg of triethylamine are stirred for 48 hours at 80° C. in 25 ml of ethanol. The reaction mixture is poured onto water and extracted with ethyl acetate. Concentration of the organic phase and crystallisation from diethyl ether yield 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-hydroxy-benzamidine having a melting point of 144-146° C.

reactant | 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-benzonitrile | 1.1 g | ClC1=C(OCCCOC2=CC=C(C#N)C=C2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C19H15Cl4NO3
reactant | hydroxylamine hydrochloride | 247 mg | Cl.NO
reactant | triethylamine | 430 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-hydroxy-benzamidine | ClC1=C(OCCCOC2=CC=C(C(=N)NO)C=C2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C19H18Cl4N2O4
